US06818631B1
2-Isopropylthio-6-trifluoromethyl-3H-pyrimidin-4-one (23.3 g) was dissolved in acetonitrile (230 ml) and N-iodosuccinimide (24.2 g) was added at room temperature with stirring. The mixture was refluxed for 2.5 hr and the solvent was removed under reduced pressure. The precipitates were dissolved in ethyl acetate, and then washed with aqueous sodium thiosulfate, water and brine, respectively. The ethyl acetate layer was dried over magnesium sulfite and the solvent was removed under reduced pressure to give 5-iodo-2-isopropylthio-6-trifluoromethyl-3H-pyrimidin-4-one (34.8 g) as pale yellow needles, mp 212-215° C.

reactant | 2-Isopropylthio-6-trifluoromethyl-3H-pyrimidin-4-one | 23.3 g | C(C)(C)SC1=NC(=CC(N1)=O)C(F)(F)F | C8H9F3N2OS
reactant | N-iodosuccinimide | 24.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 230 ml | C(C)#N | C2H3N
product | 5-iodo-2-isopropylthio-6-trifluoromethyl-3H-pyrimidin-4-one | 34.8 g | IC=1C(NC(=NC1C(F)(F)F)SC(C)C)=O | C8H8F3IN2OS
